US07625903B2
Ethyl 2-[(2,5-dichloro-4-pyrimidinyl)amino]benzoate
A round-bottomed flask was charged with 2,4,5-trichloropyrimidine (5 mL, 43.6 mmol), ethyl 2-aminobenzoate (7.6 g, 46.0 mmol), di-isopropyl-ethylamine (8.3 mL, 48.0 mmol) and ethanol (60 mL). The flask was fitted with a reflux condenser and the reaction was heated to reflux and stirred for 18 h. A white solid appeared in the reaction mixture. The reaction was cooled to room temperature, and the solid was filtered off and washed with ethanol (100 mL), ethanol/hexane (1:1, 200 mL) and hexane (200 mL) to afford the product (10.2 g, 32.7 mmol, 75% yield) as a white solid. MS: M(C13H11Cl2N3O2)=312.15, (M+H)+=312.0 and 314.0.

reactant | 2,4,5-trichloropyrimidine | 43.6 mmol, 5 mL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | ethyl 2-aminobenzoate | 46.0 mmol, 7.6 g | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
reactant | di-isopropyl-ethylamine | 48.0 mmol, 8.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | Ethyl 2-[(2,5-dichloro-4-pyrimidinyl)amino]benzoate | 32.7 mmol, 10.2 g, 75% yield | ClC1=NC=C(C(=N1)NC1=C(C(=O)OCC)C=CC=C1)Cl | C13H11Cl2N3O2
